US04427687
20.0 g (0.126 mol) of 5-oxo-2,2,4-trimethyl-3-thiazoline oxime are dissolved in 100 ml of chloroform. To the solution are added 15 ml (0.252 mol) of freshly distilled methyl isocyanate as well as 3 drops of triethylamine. The mixture, which warms slightly after a short time, is left to stand at room temperature for 16 hours. Subsequently, the slightly turbid solution is filtered, and the solvent and excess methyl isocyanate are distilled off in vacuo. The oily residue is purified chromatographically on 250 g of silica gel using ethyl acetate/n-hexane (1:1) for the elution. The solvent is removed by evaporation, and the resulting residue is recrystallized from methylene chloride/n-hexane/diethyl ether to yield 5-oxo-2,2,4-trimethyl-3-thiazoline O-(methylcarbamoyl) oxime as white crystals, m.p. 90°-92° C.

reactant | 5-oxo-2,2,4-trimethyl-3-thiazoline oxime | 0.126 mol, 20.0 g | N(O)=C1C(=NC(S1)(C)C)C | C6H10N2OS
reactant | methyl isocyanate | CN=C=O | C2H3NO
solvent | chloroform | 100 ml | C(Cl)(Cl)Cl | CHCl3
catalyst | triethylamine | 3 drops | C(C)N(CC)CC | C6H15N
product | 5-oxo-2,2,4-trimethyl-3-thiazoline O-(methylcarbamoyl) oxime | CNC(=O)ON=C1C(=NC(S1)(C)C)C | C8H13N3O2S
